US04281019
2,3-Dihydroxypropyl 4-(4-pentadecenyl)aminophenylacetate
A solution of 7.35 g. of 4-(4-pentadecenyl)aminophenylacetic acid in 50 ml. of hexamethylphosphoramide is treated with 4.80 g. of 25% aqueous sodium hydroxide followed by 11.0 g. of 3-chloro-1,2-propanediol and then is heated at 140° C. for 6 hours. The mixture is diluted with water and ether and filtered to yield a white solid. Recrystallization from acetonitrile and then from carbon tetrachloride affords the product as a white solid.

reactant | 4-(4-pentadecenyl)aminophenylacetic acid | C(CCC=CCCCCCCCCCC)NC1=CC=C(C=C1)CC(=O)O | C23H37NO2
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3-chloro-1,2-propanediol | ClCC(CO)O | C3H7ClO2
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2,3-Dihydroxypropyl 4-(4-pentadecenyl)aminophenylacetate | C(CCC=CCCCCCCCCCC)NC1=CC=C(C=C1)CC(=O)OCC(CO)O | C26H43NO4
